US04845118
1-(4-Methoxybenzyloxycarbonyl)-2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
To 1.3 g (5 mmol) of 2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole dissolved in 15 ml of anhydrous DMF were added, under nitrogen, 275 mg (6 mmol) of sodium hydride. After the mixture had been heated at 40°-50° C. for 10 min, at room temperature 1.92 g (7.5 mmol) of 4-methoxybenzyl phenyl carbonate (prepared from 4-methoxybenzyl alcohol and phenyl chloroformate) were added, and the mixture was heated at 30°-40° C. for 10 minutes and stirred at room temperature for 1 hour. The solvent was removed by distillation in vacuo, and water was added to the residue. The oily/resinous precipitate was taken up in CH2Cl2, and the solution was dried over MgSO4 and the solvent was evaporated off. The residue crystallized from diethyl ether and was recrystallized from isopropanol. Melting point 120°-121° C.

reactant | 2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 5 mmol, 1.3 g | CC=1C=CC(=NC1)CSC1=NC=2C(N1)=CSC2 | C12H11N3S2
reactant | sodium hydride | 6 mmol, 275 mg | [H-].[Na+]
reactant | 4-methoxybenzyl phenyl carbonate | 7.5 mmol, 1.92 g | C(OCC1=CC=C(C=C1)OC)(OC1=CC=CC=C1)=O | C15H14O4
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-(4-Methoxybenzyloxycarbonyl)-2-(5-methyl-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | COC1=CC=C(COC(=O)N2C(=NC=3C2=CSC3)SCC3=NC=C(C=C3)C)C=C1 | C21H19N3O3S2
